US06265426B1
4-Trifluoromethyl-benzimidic acid ethyl ester hydrochloride salt (1:1)
A solution of 4-trifluoromethyl-benzonitrile (5.16 g, 30.2 mmol) and ethanol (1.39 ml, 30.2 mmol) in chloroform (15 ml) was saturated with a dry stream of HCl gas for 15 min. at −5° C. and the mixture allowed to stand 1 week at 4° C. The product was precipitated with ether, and the suspension stirred for 30 min. at −15°C., then filtered and washed with ether. The solid product was dried at r.t. under high vacuum overnight to afford the title compound (7.1 g, 28 mmol, 93% yield) as a white solid. MS: m/e=217 (M+), 172 (M+-EtOH)

reactant | 4-trifluoromethyl-benzonitrile | 30.2 mmol, 5.16 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | ethanol | 30.2 mmol, 1.39 ml | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Trifluoromethyl-benzimidic acid ethyl ester hydrochloride salt | 28 mmol, 7.1 g, 93% yield | Cl.C(C)OC(C1=CC=C(C=C1)C(F)(F)F)=N | InChI=1S/C10H10F3NO.ClH/c1-2-15-9(14)7-3-5-8(6-4-7)10(11,12)13;/h3-6,14H,2H2,1H3;1H
